Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I am here because I was unsafe" 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ female with a self-reported past 
psychiatric history of ADHD, PTSD, and depressive symptoms since 
childhood, who presents to the ___ ED after her girlfriend 
called ___ following a verbal altercation with her significant 
other. Patient reports several neurovegetative symptoms of 
worsened mood over the past year and more acutely over the past 
week, poor sleep, low energy, a 15 pound unintentional weight 
loss between ___ and ___, difficulty with 
concentration, and feels forgetful. She feels increasingly 
hopeless. She also notes increased irritability. 

She reports that she chronically has had SI over the past year. 
However, she became concerned that her SI has acutely increased 
over the past week without a clear trigger. She states that she 
has had thoughts about shooting herself, but acknowledges that 
she does not own a gun. Currently she endorses SI but denies any 
plan. 

She also reports increased anxiety level with panic attacks 
occurring out of the blue. She states she will often awake from 
sleep in a panic and hyperventilating. She describes 
ruminations, primarily with worry thoughts about past 
relationships (reports 2 past boyfriends where abusive).  She 
denies any nightmares (though states she had them in past) but 
will wake up suddenly
from sleep panicking. She will have flashbacks or intrusive 
thoughts about past abuse. She endorses hypervigilence and 
avoidance. She also describes feelings of depersonalization and 
derealization, often after flashbacks/intrusive thoughts or if 
she gets agitated. She states that she is currently feeling that 
way. She states its usually time that helps alleviate the 
"dissociation" or "vacant" feelings, but warm showers or hot tea 
will also help. 

She states in the past she has done cutting, often in times of 
these dissociated states, as when she is in them she cannot feel 
anything and cutting helped ground her. 

Patient stated that she has not really slept well over the past 
___ months. She does state she has taken over the counter things 
(benadryl, doxylamine, vistaril) that have helped somewhat. 

Discussed with patient about possible trial of Prazosin given 
her sleeping problems and PTSD symptomatology. Discussed with 
risks and benefits of Prazosin in my usual manner. The patient 
appeared competent to make decisions about the medication based 
on their attentiveness and relevant questioning regarding the 
medication. At the end of the discussion, patient agreed to 
trial of Prazosin 2mg QHS will goal to titrate up to therapeutic 
dose if tolerated (likely as an outpatient).

Psych ROS:
 - Psychotic Symptoms: Denies auditory and visual 
hallucinations, paranoia, ideas of reference, thought 
broadcasting, thought insertion, thought extraction.
 - Manic Symptoms: Denies elevated mood, decreased need for 
sleep, increased goal-directed behaviors, distractibility, 
increased energy, racing thoughts
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 - Diagnoses: 
 ---ADHD - diagnosed as a child, had an IEP in high school
 ---dysthymia
 ---a therapist thought that she had either schizoaffective
disorder or bipolar disorder, however the patient herself does
not think that she has had true manic symptoms in the past and
disagrees with this diagnosis
 - Hospitalizations: None
 - Current treaters and treatment: Therapist: Dr. ___ at ___, sees her weekly since ___, not 
sure
if this has been helpful; no psychiatrist
 - Medication and ECT trials: PCP ___ trazodone for sleep -
she felt groggy and increasingly depressed, so she stopped the
medication; She thinks that she has tried an antidepressant back
in ___, but states it made it worse (more SI, more amotivated,
anhedonic) 
 - Self-injury: reports history of cutting over a period of ___
months approx. ___ years ago. She would cut her wrists with a
knife. She stopped cutting because she wanted to apply for a job
and did not want the scars to be visible.
- No hx of suicide attempts
- Harm to others: Denies
- Access to weapons: Denies

PAST MEDICAL HISTORY:
-reports that she had a stroke as an infant, is not sure the 
cause. This resulted in "peripheral blindness." She also reports
that she had motor delays, but has "grown out" of this.
-history of a seizure during childhood, thinks it was a febrile 
seizure Denies history of concussions or TBI.

HOME MEDICATIONS: None

ALLERGIES: tree nuts

 
Social History:
Born and raised in ___. She is the eldest, has one brother and 
one sister. Describes her childhood as difficult due to her 
father's problems with alcohol use. Parents divorced when she 
was ___ old. She reports that following the divorce, her 
mother left and joined a cult called the ___ 
in ___. She is still in communication with her mother. 

The patient came to ___ when she was ___ for college. She 
graduated from ___, studied psychology, reports 
that she "did well." States that she loved studying and enjoyed 
college. Presently working with ___, she is doing City 
Year, working in a ___ grade IEP classroom in ___. She 
"loves the kids," enjoys her job although it is time consuming.

Trauma history: reports that approx. ___ years ago her 
ex-boyfriend was physically and sexually abusive with her, and 
also threatened to blackmail her. Following this, she reports 
entering another abusive relationship where that ex-boyfriend 
was sexually abusive. She has been in her current relationship 
with her girlfriend for the past ___ years. Lives with GF and 
one roommate in ___ in
___. Denies access to guns/firearms

SUBSTANCE ABUSE HISTORY:
- EtOH: "almost never" - states she drinks approx. 1 glass 
whiskey/month; states that she cut back on her drinking ___ 
years ago. Prior to that she notes that she had problems with 
binge drinking following her assaults
- Tobacco: denies
- illicit drug use: Denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
 -Father: alcohol use disorder, PTSD
 -Mother: autism spectrum, possible depression
 -younger brother: ASD, depression, attempted suicide ___ years 
ago
 -sister: depression
 -paternal aunt: completed suicide
 -paternal grandfather: alcohol use disorder
 
Physical Exam:
Physical Examination:
VS:  BP:108/70 HR:85  temp:97.8   resp:16  O2 sat:99%RA
  height: 62.5in  weight: 108.9lbs

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: some scars on right forearm 

Neuro:
CN: 
Neurological:
-Cranial Nerves:
--I: Olfaction not tested.
--II: PERRL 
--III, IV, VI: EOMI without nystagmus
--V: Facial sensation intact to light touch in all distributions
--VII: No facial droop, facial musculature symmetric 
--VIII: Hearing intact to finger rub bilaterally
--IX, X: Palate elevates symmetrically
--XI:  ___ strength in trapezii and SCM bilaterally
--XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.

Cognition:
 Wakefulness/alertness: awake and alert
 *Attention: attends to interview without distraction
 *Orientation: oriented to person, time, place, situation
 Executive function: not assessed
 *Memory: short term and long term memory grossly intact
 *Fund of knowledge: able to name current and first ___ of 
___
 Abstraction: intact to observation
 *Speech: quiet volume, normal rate, tone, and prosody
 *Language: fluent ___ speaker with no paraphasic errors

 Mental Status:
*Appearance: Fair appearing, thin young woman in no apparent 
distress, notable acne, appears stated age, good hygiene and  
grooming, appropriately dressed in hospital gown
Behavior:  cooperative with interview though appears somewhat 
dissociated, fair eye contact. Some psychomotor slowing
*Mood: "vacant"
*Affect: dysphoric, constricted with minimal reactivity 
*Thought process: linear, coherent, goal oriented
*associations: no LOA
*Thought Content: SI but does not report any plans at this time. 
Denies HI. Denies AVH. No evidence of delusions or paranoia, 
does not appear to be responding to internal stimuli
*Judgment: limited
*Insight: limited

 
Pertinent Results:
___ 10:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:33PM   LACTATE-DISREGARD 
___ 07:53PM   GLUCOSE-85 UREA N-9 CREAT-0.8 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-103 TOTAL CO2-18* ANION GAP-18
___ 07:53PM   estGFR-Using this
___ 07:53PM URINE  HOURS-RANDOM
___ 07:53PM URINE  UCG-NEGATIVE
___ 07:53PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:53PM   WBC-6.9 RBC-3.90 HGB-12.0 HCT-38.9 MCV-100* 
MCH-30.8 MCHC-30.8* RDW-12.9 RDWSD-47.1*
___ 07:53PM   NEUTS-48.5 ___ MONOS-7.2 EOS-1.3 
BASOS-1.2* IM ___ AbsNeut-3.35 AbsLymp-2.82 AbsMono-0.50 
AbsEos-0.09 AbsBaso-0.08
___ 07:53PM   PLT SMR-NORMAL PLT COUNT-190
___ 07:53PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:53PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
 
Brief Hospital Course:
Patient is a ___ with self-reported history of ADHD, PTSD, and 
depressive symptoms who presented to the ED after her girlfriend 
called ___ following a verbal altercation. On interview patient 
initially endorsed worsening symptoms of depression over the 
past several months with worsening acute on chronic suicidal 
ideation in the past few days, though she admitted to a 
significant history of trauma and concedes long-standing 
difficulties with trust and attachment, emotion regulation, and 
distress tolerance concerning for more pervasive difficulties 
possibly consistent with borderline personality disorder.  

She was admitted under CV and engaged appropriately with 
providers, able to verbalize her goals for treatment including 
establishing a relationship with a psychopharmacologist in the 
community in the event she may, in the future, benefit from 
stimulant medications, as well as addressing traumas in therapy 
with her psychologist- note that her therapist, Dr. ___ 
___, was contacted for collateral with the patient's 
permission and, aware of her chronic suicidal ideation, admitted 
surprise at her admission, willing to continue to follow the 
patient on discharge.  The patient additionally identified 
sources of stress, including working long hours and struggling 
to complete her household chores, which she might mitigate in 
working fewer hours so that she might have more time to attend 
to other responsibilities in the evening.  

Though she initially presented as dysphoric she quickly 
brightened, apparently benefiting from the therapeutic milieu 
via socialization with peers, agreeing that she may, in the 
future, benefit from trauma-focused group therapy.  Collateral 
information obtained from patient's therapist (Dr. ___ 
___ ___ was reassuring and confirmed that 
patient verbalizes chronic suicidal thoughts but without any 
intent or plan. Outpatient provider in agreement with treatment 
team's recommendation to refer patient to psychopharmacologist 
and future referral to trauma-related support group.

She did not demonstrate disturbance of mood or thought 
concerning for primary psychiatric disorder and thus was not 
initiated on psychotropic medications; though she did endorse 
symptoms of PTSD including nightmares and flashbacks but was 
unable to tolerate low-dose prazosin at bedtime due to 
dizziness.  She remained notably linear, logical, and goal- and 
future-oriented in thought process and, while endorsing 
suicidality at baseline, denied thoughts of self-harm and 
ultimately verbalized a desire to return to work, an activity 
which provides therapeutic structure and in the absence of which 
she noted she had become increasingly anxious.  Upon discharge 
patient demonstrated preserved capacity to engage in a 
meaningful discussion about safety planning about what to do in 
the event of worsening thoughts of suicide or urges to engage in 
self harm (e.g. contact therapist, call ___, or present to the 
emergency department). 

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-Traumatic Stress Disorder

 
Discharge Condition:
Caucasian woman who appears stated age, casually dressed and 
appropriately ___ in no acute distress. Mood is 'better' 
affect is euthymic, stable, and congruent. Thought process is 
linear without loosening; thought content absent for acute 
thoughts of self-harm or suicidal ideation; denies current or 
recent urges to harm others; no evidence of internal 
preoccupation. Judgment and insight improved. Cognitive exam 
without deficits

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___